US04605673
There is prepared from 50 g triphenylphosphine and 38.5 g 1,3-dibrompropane in 150 ml xylene by heating for 20 hours at 130° C. under nitrogen 80 g crystalline (3-bromopropyl)-triphenylphosphoniumbromide with a melting point of 226° C. This is stirred using a solution of 33 g (0.7M) dimethylamine in 200 ml ethanol for 20 hours at 20°-25° C.) The residue is absorbed after removal of ethanol in a vacuum in 2-propanol and precipitated using hydrogen bromide gas. After recrystallization from ethanol, 43 g (3-dimethylaminopropyl)-triphenylphosphoniumbromide HBr is obtained with a melting point of 279° C.

reactant | triphenylphosphine | 50 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,3-dibrompropane | 38.5 g | BrCCCBr | C3H6Br2
reactant | dimethylamine | 0.7M, 33 g | CNC | C2H7N
solvent | xylene | 150 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | (3-dimethylaminopropyl)-triphenylphosphoniumbromide HBr | 43 g | Br.[Br-].CN(CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C23H27NP.2BrH/c1-24(2)19-12-20-25(21-13-6-3-7-14-21,22-15-8-4-9-16-22)23-17-10-5-11-18-23;;/h3-11,13-18H,12,19-20H2,1-2H3;2*1H/q+1;;/p-1
